US07368567B2
A solution of 4-(S)-(4-benzenesulfonyl-2-bromo-phenoxymethyl)-2,2-dimethyl-[3,3]dioxolan (1.07 g, 0.0025 mol) and pyridinum toluene-4-sulfonate (0.38 g, 0.0015 mol) in acetone (20 mL) and water (5 mL) was heated under reflux for 12 hours. The solvent was removed under reduced pressure. The oily residue was dissolved in ethyl acetate (100 mL), washed with cold 10% aqueous hydrochloric acid, saturated sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. Recrystallization of the residue (diethyl ether-hexane) gave 3-(4-benzenesulfonyl-2-bromo-phenoxy)-propane 1-2-(R)-diol as white crystals. Mp. 104.6-105.9° C.

reactant | 4-(S)-(4-benzenesulfonyl-2-bromo-phenoxymethyl)-2,2-dimethyl-[3,3]dioxolan | 0.0025 mol, 1.07 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(OC[C@H]2OC(CC2)(C)C)C=C1)Br | C19H21BrO4S
reactant | toluene-4-sulfonate | 0.0015 mol, 0.38 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | 3-(4-benzenesulfonyl-2-bromo-phenoxy)-propane 1-2-(R)-diol | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(OC[C@@H](CO)O)C=C1)Br | C15H15BrO5S
